US07115645B2
a) (2,4-Dinitrophenyl) (4-methoxyphenyl)amine
1.43 g of 4-(2,4-dinitroanilino)phenol, 500 mg of potassium carbonate and 0.32 ml of methyl iodide were stirred in 5 ml of N,N-dimethylformamide for 2 days at 20° C. The mixture was poured onto water, extracted three times with ethyl acetate, the extracts were dried on sodium sulfate, concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | 4-(2,4-dinitroanilino)phenol | 1.43 g | [N+](=O)([O-])C1=C(NC2=CC=C(C=C2)O)C=CC(=C1)[N+](=O)[O-] | C12H9N3O5
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.32 ml | CI | CH3I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2,4-Dinitrophenyl) (4-methoxyphenyl)amine | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NC1=CC=C(C=C1)OC | C13H11N3O5
